US04337256
Ethyl 2-[1-(4-chlorophenyl)isoquinolin-5-yl]-2-cyanopropionate (1.0 g) was heated under reflux together with 40 ml of ethanol, 0.20 g of sodium hydroxide and 2 ml of water. After the reaction, the reaction mixture was concentrated under reduced pressure. The resulting oily product was extracted with ether, and dried. The solvent was distilled off, and the residue was recrystallized from ether-hexane to afford 0.5 g of 2-[1-(4-chlorophenyl)isoquinolin-5-yl]propionitrile as colorless needles having a melting point of 127.5° to 130° C.

reactant | Ethyl 2-[1-(4-chlorophenyl)isoquinolin-5-yl]-2-cyanopropionate | 1.0 g | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)(C)C#N | C21H17ClN2O2
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.20 g | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 2-[1-(4-chlorophenyl)isoquinolin-5-yl]propionitrile | 0.5 g | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C(C#N)C | C18H13ClN2
